US07700638B2
7-(N-(3-cyanobenzylidene)amino)-1-phenyl-5-trifluoromethylbenzimidazole
This was prepared analogously to the above product from 7-amino-1-phenyl-5-trifluoromethylbenzimidazole (1.0 g, 3.61 mmol) and 3-cyanobenzaldehyde (0.47 g, 3.61 mmol) yielding 0.90 g (64%) m/z, 391.1 (M+H)+.

reactant | 7-amino-1-phenyl-5-trifluoromethylbenzimidazole | 3.61 mmol, 1.0 g | NC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C14H10F3N3
reactant | 3-cyanobenzaldehyde | 3.61 mmol, 0.47 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
product | 7-(N-(3-cyanobenzylidene)amino)-1-phenyl-5-trifluoromethylbenzimidazole | C(#N)C=1C=C(C=NC2=CC(=CC3=C2N(C=N3)C3=CC=CC=C3)C(F)(F)F)C=CC1 | C22H13F3N4
